datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([S][H])=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([O:21][H])[S][H] 10=20;20,21=21"
"[H][NH+:10](C([H])C(C)C([H])[O]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)C([H])[O][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([O:21]C)[S]C([H])C(C)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C([H])C(C)[S]2.CC[O:10][H] 21=20;20,10=10"
"[H][NH:10]C(C)C(CC)[O][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC 10=20;20,21=21"
"[H][S:10]C(C)C([H])[O][C:20]([O]CC)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(C)C([H])[O]1)[C:20]1([O:21][Si](C)(C)(C))[O]CC 10=20;20,21=21"
"[H][NH:10]C(C)C([H])[O][C:20]([NH][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])[O]1)[C:20]1([NH:21]C)[NH][H] 10=20;20,21=21"
"CC[NH:10][H].CC[NH+:21]=[C:20]([O]C)[NH]CC.[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]([NH:21]CC)([O]C)[NH]CC 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(CC)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C([H])[CH](CC)[O]1 10=20;20,21=21"
"[O-:21][C:20]1(OC)C([H])=C([H])C([H])C(C)[NH+:10]1([H])>>[NH:10]([H])C(C)C([H])/C([H])=C([H])\[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][O:10]C(C)C([H])C(CC)[NH][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC 10=20;20,21=21"
"[H][NH:10]C(CC)C(C)C(C)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C(C)[O]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][O:10]C(CC)C([H])C(C8=CC=CC=C8)[NH][C:20]([NH][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH][H] 10=20;20,21=21"
"[H][NH:10]C(C)C(C)C(C)[NH][C:20]([O]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C(C)[NH]1)[C:20]1([NH:21]C)[O]C 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CC)CCCCCC)C.[O-:21][H]>>C1=CC=CC=C1C1C(C(O[C:20](N1CC)([O-:10])[O:21][H])CCCCCC)C 21=20;20,10=10"
"[NH:10](C)C(CC)C(O)C([H])C(C)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)C([H])C(O)C(CC)[NH+:10]1(C) 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])[H])CC)CC)CCCCCC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)[H])CC)CC)[O-:10])CCCCCC 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH][C:20]([NH]CC)=[NH+:21]C 21=20;20,10=10"
"C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OCC)C1=CC=CC=C1)CCCCCC>>C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OCC)C1=CC=CC=C1)CCCCCC 21=20;20,10=10"
"[NH:10]([H])C(C)C(C)C(O)C([H])[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])C(O)C(C)C(C)[NH+:10]1([H]) 10=20;20,21=21"
"CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])C1=CC=CC=C1)CC>>CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)CC.[O-:21][H] 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](CC)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C)[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)[H])CCCCCC)CC)[O-:10])[H]>>[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])CCCCCC)CC)[H] 10=20;20,21=21"
"CCC1C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)CC>>CCC1C(O[C:20](=[O:10])N1[H])CC.[O-:21]CCCCCC 10=20;20,21=21"
"[H][O:10]C(C)C(C)C(C8=CC=CC=C8)[NH][C:20]([O]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[O]CC 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)O[H])CCCCCC)CCCCCC>>C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])O[H])CCCCCC)CCCCCC 10=20;20,21=21"
"CC[O+:10]([H])[C:20]([O:21]C)([S][H])[O][H].[Cl-]>>[Cl-].CC[O:10][H].C[O+:21]=[C:20]([S][H])[O][H] 21=20;20,10=10"
"[H][S+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[S][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)CCCCCC)CC.[O-:21]CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)CCCCCC)CC 21=20;20,10=10"
"[O:10]([K])C([H])C([H])C(C)C(O)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(O)C(C)C([H])C([H])[O+:10]1([K]) 10=20;20,21=21"
"[O-:21][C:20]2(C)C(C(C)C3=C([O:10]2)C=CC=C3)[H]>>[O-:10]C(C=CC=C1)=C1C(C)C([C:20](C)=[O:21])[H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)C1=CC=CC=C1)[H]>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1)[H].[O-:21]CCCCCC 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C([H])[CH](C)[O]1 10=20;20,21=21"
"C[O+:10]([H])[C:20]([NH:21]C)([NH]CC)[O][H].[Cl-]>>[Cl-].C[O:10][H].C[NH+:21]=[C:20]([NH]CC)[O][H] 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1[H])([O-:10])[O:21]C)C1=CC=CC=C1)CC>>[H]C1C(C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1)CC.[O-:21]C 10=20;20,21=21"
